US09056859B2
A mixture of ethyl (5-nitropyridin-2-yl)acetate (2.40 g, 11.4 mmol), Raney-Ni (50 mg) in 100 mL of MeOH was stirred at room temperature overnight. The mixture was filtered and concentrated to give ethyl (5-aminopyridin-2-yl)acetate. 1H-NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 7.06 (dd, J=8.4 Hz, 1H), 6.95 (d, J=8.4 Hz, 1H), 4.15 (q, J=7.2 Hz, 2H), 3.71 (s, 2H), 3.65 (br, 2H), 1.24 (t, J=7.2 Hz, 3H).

reactant | ethyl (5-nitropyridin-2-yl)acetate | 11.4 mmol, 2.40 g | [N+](=O)([O-])C=1C=CC(=NC1)CC(=O)OCC | C9H10N2O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Ni | 50 mg | [Ni] | Ni
product | ethyl (5-aminopyridin-2-yl)acetate | NC=1C=CC(=NC1)CC(=O)OCC | C9H12N2O2
